US04092443
3-Phenoxy-2-hydroxypropyl acrylate was prepared as described in Example 17 except that the acrylic acid was added over 1 hour at 100°, 2,6-di-tert. butyl-p-cresol was used in place of hydroquinone, and the mixture was heated for 4 hours at 100° after the acrylic acid had been added.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | 2,6-di-tert. butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
product | 3-Phenoxy-2-hydroxypropyl acrylate | C(C=C)(=O)OCC(COC1=CC=CC=C1)O | C12H14O4
